US04040968
Preparation of 10-octadecylureido-benzimidazo[2,1-a]benz[de]isoquinoline-7-one.
A 5.7 g portion of the 10-amino-benzimidazo[2,1-a]benz[de]isoquinoline-7-one was added to 200 ml of distilled tetrahydrofuran in a 500 ml flask. To this mixture was added 5.9 g of Mondur O (octadecyl isocyanate) and 0.3 g of 1,4-diazobicyclo-octane. The mixture was stirred with a magnetic stirring bar and brought to reflux. The mixture was refluxed until no isocyanate peak was visible at 2240 cm-1 on infrared spectraphotometric analysis (~48-72 hours). It was then cooled and the solvent removed on the rotary evaporator. The solid thus obtained was ground to a fine powder, stirred in ether, filtered and dried in the vaccuum oven. The yield was 10.7 g of 10 octadecylureido benzimidazo [2,1-a]benz[de]isoquinoline-7-one.

reactant | 10-amino-benzimidazo[2,1-a]benz[de]isoquinoline-7-one | NC=1C=CC2=C(C1)N1C(C=3C=CC=C4C3C(C1=O)=CC=C4)=N2 | C18H11N3O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | Mondur O | 5.9 g | CCCCCCCCCCCCCCCCCCN=C=O | C19H37NO
reactant | isocyanate | [N-]=C=O
solvent | ether | CCOCC | C4H10O
product | 10-octadecylureido-benzimidazo[2,1-a]benz[de]isoquinoline-7-one | C(CCCCCCCCCCCCCCCCC)NC(NC=1C=CC2=C(C1)N1C(C=3C=CC=C4C3C(C1=O)=CC=C4)=N2)=O | C37H48N4O2
